US05118534
Synthesis of 2-(decylthio)ethanamine
After the hydrolysis in the above step is complete, the reactor is cooled to about 100° C. and approximately 2.0 equivalents of sodium hydroxide (217 lbs of 50 weight percent solution), based upon the hydrochloric acid added in the production of 2-(decylthio)ethanamine hydrochloride, are introduced with stirring in approximately 30 minutes. The reaction mixture is allowed to settle until phase separation is complete (approximately 30 minutes) and the 2-(decylthio)ethanamine is decanted off. The 2-(decylthio)ethanamine can be passed over a drying agent such as sodium sulfate, or may be vacuum stripped to remove any dissolved and/or entrained water.

reactant | sodium hydroxide | 217 lbs, approximately 2.0 equivalents | [OH-].[Na+]
reactant | hydrochloric acid | Cl | ClH
reactant | 2-(decylthio)ethanamine hydrochloride | Cl.C(CCCCCCCCC)SCCN
product | 2-(decylthio)ethanamine | C(CCCCCCCCC)SCCN | C12H27NS
